US07585878B2
A mixture of 227 mg of 3-aminophenol, 3-(piperidin-1-ylmethyl)biphenyl-4-carboxylic acid (2.08 mmol), and sodium chloride was suspended into 7 ml of DMF and then 599 mg of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide was added thereto at room temperature, followed by 10 hours of stirring. Ethyl acetate and a 1M aqueous hydrochloric acid solution were added to the reaction solution and sodium hydrogen carbonate was added to the aqueous layer obtained by an operation of separation until the aqueous layer was rendered basic. Ethyl acetate was added to the aqueous layer and an operation of separation was conducted. The resulting organic layer was dried over anhydrous magnesium sulfate and then the solvent was removed by evaporation. The obtained white solid was dissolved in ethanol and a 4M ethyl acetate solution of hydrochloric acid was added thereto, followed by removal of the solvent by evaporation. Ethanol and water were added to the obtained reside and crystallization was effected to obtain 436 mg of N-(3-hydroxyphenyl)-3-(piperidin-1-ylmethyl)biphenyl-4-carboxamide hydrochloride as a white powder.

reactant | 3-aminophenol | 227 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | 3-(piperidin-1-ylmethyl)biphenyl-4-carboxylic acid | 2.08 mmol | N1(CCCCC1)CC=1C=C(C=CC1C(=O)O)C1=CC=CC=C1 | C19H21NO2
reactant | sodium chloride | [Cl-].[Na+]
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 599 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | N-(3-hydroxyphenyl)-3-(piperidin-1-ylmethyl)biphenyl-4-carboxamide hydrochloride | 436 mg | Cl.OC=1C=C(C=CC1)NC(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)CN1CCCCC1 | InChI=1S/C25H26N2O2.ClH/c28-23-11-7-10-22(17-23)26-25(29)24-13-12-20(19-8-3-1-4-9-19)16-21(24)18-27-14-5-2-6-15-27;/h1,3-4,7-13,16-17,28H,2,5-6,14-15,18H2,(H,26,29);1H
